"mosPoleSplitting"
.source I1
.detector V_out
.param c_dg=0.3f I_s=1 C_s=0.2p R_s=100k R_ell=100k C_ell=0.5p
.model MN M gm=0.5m cgs=1.25f cdg={c_dg} cdb=0.2f go=20u
C1 1 0 C value={C_s} vinit=0
C2 out 0 C value={C_ell} vinit=0
I1 0 1 I value={I_s} noise=0 dc=0 dcvar=0
M1 out 1 0 0 MN
R1 1 0 R value={R_s} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R2 out 0 R value={R_ell} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
.end